US04643990
To a solution of 2,2-dimethyl-1,3-dioxane-4,6-dione (Meldrum's acid, 72 g) in dichloromethane (1 l) was added pyridine (81 ml). Then, palmitoyl chloride (150.7 g) was added thereto at 0° C. The mixture was stirred at 0° C. for 1 hour and for additional 2 hours at ambient temperature. The reaction mixture was diluted with chloroform (1 l), poured into ice water (1 l), acidified with dilute hydrochloric acid solution, and washed with water (500 ml×3). After drying over magnesium sulfate, the solvent was evaporated under reduced pressure to give 2,2-dimethyl-5-(1-hydroxyhexadecylidene)-1,3-dioxane-4,6-dione (200 g) as an oil.

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 72 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | pyridine | 81 ml | N1=CC=CC=C1 | C5H5N
reactant | palmitoyl chloride | 150.7 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 1 l | ClCCl | CH2Cl2
solvent | chloroform | 1 l | C(Cl)(Cl)Cl | CHCl3
product | 2,2-dimethyl-5-(1-hydroxyhexadecylidene)-1,3-dioxane-4,6-dione | 200 g | CC1(OC(C(C(O1)=O)=C(CCCCCCCCCCCCCCC)O)=O)C | C22H38O5
